Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RLE swelling 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH HTN, CKD, gout, and prior provoked DVT (___) who 
presents with RLE swelling that he noticed when he woke up this 
morning. 

It is painless at rest but he notices some mild discomfort in 
his RLE with walking that is relieved by rest. His most recent 
travel was flying back from ___ in ___ he otherwise 
travels for ~2.5 hrs between ___ and here but generally stops 
every hour. He denies any trauma to the area. He has no known 
malignancy. He denies any fevers, chills, N/V/D, SOB. He did 
have an episode of L low back pain about a week ago for which he 
called his PCP. He took oxycodone from an old prescription to 
treat the pain. He had made an appointment to see him, but the 
pain resolved spontaneously so he cancelled the appointment. He 
denies SOB, chest pain (pleuritic or otherwise) and has been in 
his USOH. 

Patient had a prior provoked DVT in ___ after a transatlantic 
flight. 

In the ED, initial vitals: 97.2 140/91 107 18 100/RA 
- Exam notable for: RLE 1+ edema to the thigh, erythematous, 
visibly larger than LLE. R doralis pedis pulse palpable but 
diminished compared to the left. 
- Labs notable for:

7.0>12.7/36.8<188

141 | 105 | 26
---------------<97
4.7 | 24  | 1.7

- Imaging notable for:
--___: 1. No appreciable flow within the right deep venous 
vasculature, including common femoral, femoral, deep femoral and 
popliteal vein, consistent with extensive deep vein thrombosis. 
The peroneal and posterior tibial veins are not well 
demonstrated, and presence of flow cannot be evaluated.
2. Nonocclusive thrombus within the right greater saphenous 
vein.
3. No evidence of deep venous thrombosis in the left lower 
extremity veins. 

- Vascular surgery evaluated: Given cr of 1.7, rec hep gtt to 
coumadin and medical admission over lovenox. Patient wishes to 
avoid contrast (ie CTV for further evaluation). Please ACE and 
elevate. Will follow to eval for improvement. 
- Pt given: Heparin bolus and GTT

On arrival to the floor, pt reports generally feeling well, NAD, 
no significant pain in leg. 
 
Past Medical History:
HTN
CKD
Gout
Prior DVT
HLD
Obesity
Colonic polyps
 
Social History:
___
Family History:
Mom with DVT and PE after hip fracture
Sister with unprovoked DVT
Father had ___ disease and myeloproliferative disease 
and died at age ___.
 
Physical Exam:
On admission:
PHYSICAL EXAM:  
Vitals: 97.9  128/75  77  20  98/Ra  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley  
Ext: RLE significantly swollen compared to L, nontender. Both 
extremities warm, well perfused, 2+ pulses, no clubbing, 
cyanosis.   
Neuro: CN2-12 intact, no focal deficits 

Discharge physical exam:
Vitals: 97.8 BP 121/72 HR 66 RR 18 O2 sat 95% on RA
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley  
Ext: RLE significantly swollen (around thigh) compared to L, 
nontender. Both extremities warm, well perfused, 2+ pulses, no 
clubbing, cyanosis.   
Neuro: CN2-12 intact, no focal deficits 
 
Pertinent Results:
Admission labs:
___ 10:25AM BLOOD WBC-7.0 RBC-4.11* Hgb-12.7* Hct-38.6* 
MCV-94 MCH-30.9 MCHC-32.9 RDW-12.7 RDWSD-43.6 Plt ___
___ 10:05AM BLOOD ___ PTT-26.7 ___
___ 10:05AM BLOOD Glucose-97 UreaN-26* Creat-1.7* Na-141 
K-4.7 Cl-105 HCO3-24 AnGap-17
___ 06:50AM BLOOD Calcium-8.4 Phos-3.3 Mg-2.3

Discharge labs:
___ 07:08AM BLOOD ___ PTT-62.9* ___
___ 07:08AM BLOOD Glucose-90 UreaN-26* Creat-1.6* Na-144 
K-4.6 Cl-108 HCO3-23 AnGap-18
___ 07:08AM BLOOD Calcium-8.2* Phos-3.6 Mg-2.2

Micro:
None

Imaging:
Bilateral lower extremity ultrasound ___
IMPRESSION: 
-No appreciable flow within the right deep venous vasculature, 
including 
common femoral, femoral, deep femoral and popliteal vein, 
consistent with 
extensive deep vein thrombosis.  The peroneal and posterior 
tibial veins are 
not well demonstrated, and presence of flow cannot be evaluated. 

-Nonocclusive thrombus within the right greater saphenous vein. 
-No evidence of  deep venous thrombosis in the left lower 
extremity veins 

 
Brief Hospital Course:
___ PMH HTN, CKD, gout, and prior provoked DVT (___) who 
presents with RLE swelling that he noticed when he woke up this 
morning, found to have new unprovoked DVT. 

#DVT
Patient presented with 1d of leg swelling and found to have DVT 
on ___ with no precipitating event. DVT was extensive with 
thrombus of RLE involving common femoral, femoral, deep femoral 
and popliteal vein. He has a positive personal history for 
provoked DVT, and family history of provoked and unprovoked DVT. 
His leg was elevated and ace wrapped. He was seen by vascular 
surgery who recommended initial treatment with 24 hours of 
heparin drip and then transitioned to lovenox to coumadin bridge 
following a discussion of the risks and benefits of 
anticoagulation options (Lovenox vs lovenox to coumadin vs 
NOAC). Given the patient's prior treatment with lovenox to 
Coumadin he preferred this choice. Vascular surgery also 
recommended a venogram. Patient declined given his preference to 
avoid contrast. Vascular surgery recommended it as outpatient if 
indicated. Can consider outpatient heme consult given family hx 
of DVT.

#CKD: Baseline Cr appears to be ~1.6. Cr was 1.7 on admission 
and remained stable during admission.

#Gout: continued febuxostat

#HTN: continued amlodipine, and switched benazepril to 
lisinopril while inpatient. Placed back on benazepril on 
discharge

#HLD: continued atorvastatin

#CODE: confirmed full 
#COMMUNICATION: HCP: Wife, ___, ___ 

TRANSITIONAL ISSUES:
========================
# New Medications
- Lovenox ___ BID
- Coumadin 5mg daily

# Medications stopped
- None

# Medications changed
- None

To dos:
- Consider outpatient heme consult given family hx of DVT
- HCA anticoagulation for monitoring of INR
- Vascular recommends outpatient CT venogram in the future if 
clinically indicated as it would give further indication of how 
extensive DVT is and if future intervention is required given 
how extensive it was on admission.

#CODE: confirmed full 
#COMMUNICATION: HCP: Wife, ___, ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. benazepril 20 mg oral DAILY 
3. Febuxostat 80 mg PO DAILY 
4. Simvastatin 10 mg PO QPM 
5. Vitamin D 1000 UNIT PO DAILY 
6. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 120 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 120 mg/0.8 mL 120 mg injection Twice a day Disp 
#*20 Syringe Refills:*0 
2.  Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 5 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
3.  amLODIPine 5 mg PO DAILY  
4.  benazepril 20 mg oral DAILY  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Febuxostat 80 mg PO DAILY  
7.  Simvastatin 10 mg PO QPM  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
Deep vein thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Your were admitted to ___ with right lower leg swelling and 
were found to have a deep vein thrombosis on ultrasound. We 
treated your clot with heparin, a blood thinner, with the goal 
to bridge you to another anticoagulant, Coumadin (with lovenox 
as a bridge). You felt better after this.

You will continue lovenox and coumadin until you are therapeutic 
(INR 2.0-3.0) after which, you will only take Coumadin. You will 
have follow up with your primary care doctor after you leave. 
You will be contacted by ___ clinic. The 
vascular team also recommended a CT venogram in the near future 
if indicated.

If you have any shortness of breath, chest pain, fever >101, or 
excessive bleeding, please go to the emergency room.

It was a pleasure taking care of you and we wish you the best, 
The ___ Care Team 

 
Followup Instructions:
___